US08445509B2
1-(3,5-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile
A solution (30 mL) of 2-cyano-N-(3,5-difluorophenyl)acetamide (3.10 g, 16.0 mmol), (3E)-4-methoxybut-3-en-2-one (2.40 g, 24.0 mmol) and 1,4-diazabicyclo[2.2.2]octane (2.70 g, 24.0 mmol) in 2-(2-methoxyethoxy)ethanol was stirred at 130° C. for 12 hr. After cooling to room temperature, the reaction solution was divided into two layers with ethyl acetate and water and subjected to extraction (3 times) with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the obtained residue was washed with ethyl acetate and collected by filtration to give the title compound (1.60 g, 40%) as a brown solid.

reactant | 2-cyano-N-(3,5-difluorophenyl)acetamide | 16.0 mmol, 30 mL, 3.10 g | C(#N)CC(=O)NC1=CC(=CC(=C1)F)F | C9H6F2N2O
reactant | (3E)-4-methoxybut-3-en-2-one | 24.0 mmol, 2.40 g | CO/C=C/C(C)=O | C5H8O2
reactant | 1,4-diazabicyclo[2.2.2]octane | 24.0 mmol, 2.70 g | N12CCN(CC1)CC2 | C6H12N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 2-(2-methoxyethoxy)ethanol | COCCOCCO | C5H12O3
solvent | water | O | H2O
product | 1-(3,5-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 1.60 g, 40% | FC=1C=C(C=C(C1)F)N1C(C(=CC=C1C)C#N)=O | C13H8F2N2O
